US08865726B2
To 3-(4-bromophenyl)-1H-pyrazole (2.0 g, 9.0 mmol) in DMF was added sodium hydride (0.54 g, 13 mmol) (60% in oil) and the reaction was stirred at ambient temperature for 30 minutes. (2-(Chloromethoxy)ethyl)trimethylsilane (4.5 g, 27 mmol) was added and the reaction was stirred overnight. Water was added and the aqueous phase extracted with DCM. The combined organic phases were dried over MgSO4, filtered and concentrated. The crude material was purified by reverse phase chromatography (SP4, 25M, water/CH3CN 60:40 to 0:100, 20 column volumes) to yield 3-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole (2.4 g, 76% yield) as a clear oil.

reactant | 3-(4-bromophenyl)-1H-pyrazole | 9.0 mmol, 2.0 g | BrC1=CC=C(C=C1)C1=NNC=C1 | C9H7BrN2
reactant | sodium hydride | 13 mmol, 0.54 g | [H-].[Na+]
reactant | (2-(Chloromethoxy)ethyl)trimethylsilane | 27 mmol, 4.5 g | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole | 2.4 g, 76% yield | BrC1=CC=C(C=C1)C1=NN(C=C1)COCC[Si](C)(C)C | C15H21BrN2OSi
